US08252781B2
Process 7: Preparation of 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylic acid
A solution of methyl 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylate (40.0 mg, 0.100 mmol) in tetrahydrofuran-methanol (1:1, 1 mL) was added with 2M aqueous solution of sodium hydrate (1 mL) at room temperature, and the resultant was stirred at 80° C. for 30 minutes. The reaction solution was neutralized with 4M hydrochloric acid, and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained residue was purified using Preparative Thin-Layer chromatography (hexane:ethyl acetate=1:2), and the title compound (24.5 mg, 63.4%) was obtained as a white crystalline powder.

reactant | methyl 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylate | 0.100 mmol, 40.0 mg | FC1=CC=C(CN2N(C(C2(C)C)=O)C2C3CC4(CC(CC2C4)C3)C(=O)OC)C=C1 | C23H29FN2O3
reactant | sodium hydrate | 1 mL | O.[Na]
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | tetrahydrofuran-methanol | 1 mL | O1C(CCC1)CO | C5H10O2
product | 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylic acid | 24.5 mg, 63.4% | FC1=CC=C(CN2N(C(C2(C)C)=O)C2C3CC4(CC(CC2C4)C3)C(=O)O)C=C1 | C22H27FN2O3
